US03962272
5-(Ethoxycarbonyl)-1H-Tetrazole-1-acetic acid
A mixture of azidoacetic acid (5.0 grams, 50 mmol.) and ethyl cyanoformate (15.0 grams, 150 millimoles,) was heated at 110°C. for 8.5 hours. The reaction mixture was cooled; crystalline product separated which was filtered and washed with toluene. The filtrate was concentrated under vacuum, and the remaining oil was cooled and seeded with a crystal of the product to give a second crop. The yield of the title product was 5.1 grams (51 percent, assuming pure starting materials), m.p. (both crops) 144°-147°C. The analysis was as follows:

reactant | azidoacetic acid | 50 mmol, 5.0 grams | N(=[N+]=[N-])CC(=O)O | C2H3N3O2
reactant | ethyl cyanoformate | 150 millimoles, 15.0 grams | C(#N)C(=O)OCC | C4H5NO2
product | 5-(Ethoxycarbonyl)-1H-Tetrazole-1-acetic acid | C(C)OC(=O)C1=NN=NN1CC(=O)O | C6H8N4O4
